US06225316B1
d) 5-(2-Chloro-phenyl)-N-methyl-2-(4-methyl-piperazin-1-yl)-isonicotinamide
To a suspension of 1.20 g (3.83 mmol) 5-bromo-N-methyl-2-(4-methyl-piperazin-1-yl)-isonicotinamide in 15 ml toluene were added successively 0.135 g tetrakis(triphenylphosphine)palladium(0), 4 ml 2 M sodium carbonate solution in water and 0.72 g (4.6 mmol) o-chlorphenylboronic acid. The mixture was heated under argon at 80° C. for 18 h. The aqueous layer was separated and washed with toluene. The combined organic layers were washed with brine, dried (magnesium sulfate) and evaporated. Chromatography of the residue afforded 0.84 g (63%) of the title compound as a pale brown foam.

reactant | 5-bromo-N-methyl-2-(4-methyl-piperazin-1-yl)-isonicotinamide | 3.83 mmol, 1.20 g | BrC1=CN=C(C=C1C(=O)NC)N1CCN(CC1)C | C12H17BrN4O
reactant | sodium carbonate | 2 M, 4 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | o-chlorphenylboronic acid | 4.6 mmol, 0.72 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.135 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-Chloro-phenyl)-N-methyl-2-(4-methyl-piperazin-1-yl)-isonicotinamide | 0.84 g, 63% | ClC1=C(C=CC=C1)C1=CN=C(C=C1C(=O)NC)N1CCN(CC1)C | C18H21ClN4O
